US06399629B1
(B) N-tert-Butoxycarbonyl-trans-4-(N,N-Dimethylglycylamino)-L-Proline
A solution of lithium hydroxide monohydrate (40 mg) in water (1 mL) was added to a solution of N-tert-butoxycarbonyl-trans-4-(N,N-dimethylglycylamino)-L-proline methyl ester (A, 264 mg) in tetrahydrofuran (3 mL)-methanol (1 mL) at 0° C. After stirring at room temperature for 4 hr, acetic acid (55 L) was added to the reaction mixture at 0° C. The resulting solution was evaporated in vacuo to afford the crude title compound, which is used in the subsequent step.

reactant | lithium hydroxide monohydrate | 40 mg | O.[OH-].[Li+]
reactant | N-tert-butoxycarbonyl-trans-4-(N,N-dimethylglycylamino)-L-proline methyl ester | COC([C@H]1N(C[C@@H](C1)NC(CN(C)C)=O)C(=O)OC(C)(C)C)=O | C15H27N3O5
reactant | methanol | 1 mL | CO | CH4O
reactant | acetic acid | 55 L | C(C)(=O)O | C2H4O2
solvent | water | 1 mL | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | N-tert-Butoxycarbonyl-trans-4-(N,N-Dimethylglycylamino)-L-Proline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)NC(CN(C)C)=O | C14H25N3O5
